* c:\fossee\esim\library\subcircuitlibrary\astable_multivibrator\astable_multivibrator.cir

.include lm_741.sub
r1  net-_c1-pad1_ net-_r1-pad2_ 10k
r3  net-_r3-pad1_ net-_r1-pad2_ 1k
r4  gnd net-_r3-pad1_ 10k
c1  net-_c1-pad1_ gnd 0.01u
v1  net-_x1-pad7_ gnd 5v
x1 net-_r2-pad1_ net-_c1-pad1_ net-_r3-pad1_ gnd net-_r2-pad2_ net-_r1-pad2_ net-_x1-pad7_ ? lm_741
r2  net-_r2-pad1_ net-_r2-pad2_ 1k
* u1  net-_r1-pad2_ port
.tran 1e-06 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
